US05145983
N-benzoylimidazole
Into 132 parts methylene chloride containing 8.16 parts carbonyldiimidazole, 11.31 parts benzoic anhydride in 66 parts methylene chloride was added. The resulting mixture was refluxed 5 hours until gas evolution ceased. The yield after removal of solvent at reduced pressure was 19.31 parts crude material, demonstrated as predominantly benzoylimidazole by IR, GC-MS, 1H-NMR, and 13C-NMR accompanied by some dichloromethane. The compound is known, Chem. Ber., Vol. 95, pp. 1275-1283 (1961).

reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | benzoic anhydride | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-benzoylimidazole | C(C1=CC=CC=C1)(=O)N1C=NC=C1 | C10H8N2O
